US06635655B1
2-(3-Iodophenoxymethyl)-naphthalene
To a solution of 3-iodophenol (4.0 g, 18 mmol) in ethanol (40 mL) is added potassium hydroxide (1.0 g, 18 mmol) and 2-(bromomethyl) naphthalene (4.0 g, 18 mmol) and this mixture is refluxed overnight. The hot reaction is filtered and the filtrate is chilled in ice. The ensuing precipitate is collected by filtration to give the title compound. 1H NMR (300 MHz, CDCl3) δ 7.84-7.89 (m, 4H), 7.48-7.53 (m, 3H), 7.40 (d, 1H), 7.29-7.32 (m, 1H), 6.95-7.04 (m, 2H), 5.20 (s, 2H); MS (EI) 360 (M)+.

reactant | 3-iodophenol | 18 mmol, 4.0 g | IC=1C=C(C=CC1)O | C6H5IO
reactant | potassium hydroxide | 18 mmol, 1.0 g | [OH-].[K+]
reactant | 2-(bromomethyl) naphthalene | 18 mmol, 4.0 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-(3-Iodophenoxymethyl)-naphthalene | IC=1C=C(OCC2=CC3=CC=CC=C3C=C2)C=CC1 | C17H13IO
